US07678801B2
31e) N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-thiophenecarboxamide
The title compound was prepared from N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide and 2,2,6,6-tetramethyl-4-piperidinamine according to General Procedure for Sulfoxide/Sulfone Displacement, described above. The concentrated reaction mixture was slurried with acetonitrile and filtered. The solid was recrystallized from methanol/water to afford the desired product as a crystalline solid (0.2 g, 16%). HPLC indicated >99% pure: LC-MS m/z 629 (M+H)+, 1.86 min (ret time).

reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)S(=O)(=O)C)=O | C26H18F2N4O4S2
reactant | 2,2,6,6-tetramethyl-4-piperidinamine | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(3-{8-(2,6-difluorophenyl)-7-oxo-2-[(2,2,6,6-tetramethyl-4-piperidinyl)amino]-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methylphenyl)-3-thiophenecarboxamide | 0.2 g, 16% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)NC2CC(NC(C2)(C)C)(C)C)=O | C34H34F2N6O2S
